US08067447B2
3-(1,3,4-Thiadiazol-2-ylamino)-2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-2-methyl-3-oxopropyl acetate
Example 154 was prepared from 2-(acetoxymethyl)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid (75 mg, 0.168 mmol) and 1,3,4-thiadiazol-2-amine using General Coupling Method B to give 35 mg (39% yield). MS found: (M+H)+=530.

reactant | 2-(acetoxymethyl)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid | 0.168 mmol, 75 mg | C(C)(=O)OCC(C(=O)O)(C(C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C | C26H23FN2O4
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | 3-(1,3,4-Thiadiazol-2-ylamino)-2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-2-methyl-3-oxopropyl acetate | 39% yield | C(C)(=O)OCC(C(=O)NC=1SC=NN1)(C)C(C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C28H24FN5O3S
